US08536187B2
A mixture of 4-bromo-N-tert-butyl-3-methylbenzenesulfonamide (1.207 g) and zinc cyanide (0.976 g) in DMF (8 ml) was purged with N2 for 20 min. Then PdCl2(dppf) was added. The reaction mixture was heated at 120° C. for 4 hours and showed no reaction. Pd(PPh3)4 was added and the reaction mixture was stirred at 120° C. over the weekend. The reaction mixture was diluted with EtOAc and washed with 5% LiCl solution (2×). The combined organic layers were dried (MgSO4), concentrated and purified by silica gel column chromatography to give 1.227 g N-tert-butyl-4-cyano-3-methylbenzenesulfonamide as a white solid.

reactant | 4-bromo-N-tert-butyl-3-methylbenzenesulfonamide | 1.207 g | BrC1=C(C=C(C=C1)S(=O)(=O)NC(C)(C)C)C | C11H16BrNO2S
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc cyanide | 0.976 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-tert-butyl-4-cyano-3-methylbenzenesulfonamide | 1.227 g | C(C)(C)(C)NS(=O)(=O)C1=CC(=C(C=C1)C#N)C | C12H16N2O2S
